US08134015B2
Subsequently, 2-(3-diethylaminomethyl-benzoylamino)-4-methyl-5-piperidin-1-ylmethylthiophene-3-carboxylic acid ethyl ester (79 mg) was dissolved in ethanol (10 ml), hydrazine monohydrate (2 ml) was added dropwise to the solution at room temperature, and a reaction was then allowed to proceed at that temperature for 12 hr. After the completion of the reaction, the reaction system was concentrated under the reduced pressure. The residue was purified by column chromatography eluted with a chloroform-methanol system to give 3-diethylaminomethyl-N-(3-hydrazinocarbonyl-4-methyl-5-piperidin-1-ylmethylthiophen-2-yl)-benzamide as a useful intermediate (30 mg, yield 38%).

reactant | 2-(3-diethylaminomethyl-benzoylamino)-4-methyl-5-piperidin-1-ylmethylthiophene-3-carboxylic acid ethyl ester | 79 mg | C(C)OC(=O)C1=C(SC(=C1C)CN1CCCCC1)NC(C1=CC(=CC=C1)CN(CC)CC)=O | C26H37N3O3S
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-diethylaminomethyl-N-(3-hydrazinocarbonyl-4-methyl-5-piperidin-1-ylmethylthiophen-2-yl)-benzamide | C(C)N(CC)CC=1C=C(C(=O)NC=2SC(=C(C2C(=O)NN)C)CN2CCCCC2)C=CC1 | C24H35N5O2S
